US04298739
3.4 Grams of 1-methyl-6-hydroxy-3,4-dihydrocarbostyril, 0.9 g of potassium hydroxide, 3.2 g of sodium iodide and 5.0 g of N-methyl-N-(4-chlorobutyryl)-cyclohexylamine are added to 50 ml of dimethylsulfoxide and agitated at 70° to 80° C. for 4.5 hours. After the reaction, the reaction solution is poured into 400 ml of saturated NaCl solution and the precipitated crystals are filtered out and washed with water. The resultant crude crystals are recrystallized from ligroin to obtain 3.1 g of 1-methyl-6-[3-(N-cyclohexyl-N-methylaminocarbonyl)propoxy]-3,4-dihydrocarbostyril in the form of colorless needle-like crystals with melting point of 104.5°-106.5° C.

reactant | 1-methyl-6-hydroxy-3,4-dihydrocarbostyril | CN1C(=O)CCC2=CC(=CC=C12)O | C10H11NO2
reactant | potassium hydroxide | 0.9 g | [OH-].[K+]
reactant | sodium iodide | 3.2 g | [I-].[Na+]
reactant | N-methyl-N-(4-chlorobutyryl)-cyclohexylamine | 5.0 g | CN(C(CCCCl)=O)C1CCCCC1 | C11H20ClNO
reactant | NaCl | 400 ml | [Na+].[Cl-]
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 1-methyl-6-[3-(N-cyclohexyl-N-methylaminocarbonyl)propoxy]-3,4-dihydrocarbostyril | 3.1 g | CN1C(=O)CCC2=CC(=CC=C12)OCCCC(=O)N(C)C1CCCCC1 | C21H30N2O3
